US07919488B2
tert-butyl {5-(4-fluorobenzyl)-3-[1-(4-methoxybenzyl)-1H-1,2,3-triazol-4-yl]-1H-pyrazol-1-yl}acetate
To a solution of 4-[5-(4-fluorobenzyl)-1H-pyrazol-3-yl]-1-(4-methoxybenzyl)-1H-1,2,3-triazole (19.0 g, 0.052 mol) in anhydrous THF (100 mL) was added NaH (2.6 g, 0.06 mol) at 0° C. and the mixture was stirred at RT for 2 hours. tert-butyl bromoacetate (12.5 g, 0.057 mol) was then added at 0° C. and the mixture was stirred at RT for 2 hours. The mixture was evaporated and the residue was purified via column chromatography (silica gel, EtOAc/Petroleum ether 1:1) to yield the title compound (20.0 g, 76.0%) as a yellow solid.

reactant | 4-[5-(4-fluorobenzyl)-1H-pyrazol-3-yl]-1-(4-methoxybenzyl)-1H-1,2,3-triazole | 0.052 mol, 19.0 g | FC1=CC=C(CC2=CC(=NN2)C=2N=NN(C2)CC2=CC=C(C=C2)OC)C=C1 | C20H18FN5O
reactant | NaH | 0.06 mol, 2.6 g | [H-].[Na+]
reactant | tert-butyl bromoacetate | 0.057 mol, 12.5 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | tert-butyl {5-(4-fluorobenzyl)-3-[1-(4-methoxybenzyl)-1H-1,2,3-triazol-4-yl]-1H-pyrazol-1-yl}acetate | 20.0 g, 76.0% | FC1=CC=C(CC2=CC(=NN2CC(=O)OC(C)(C)C)C=2N=NN(C2)CC2=CC=C(C=C2)OC)C=C1 | C26H28FN5O3
